data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(C)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2)C(=N)C=C1", "products": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(C)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1", "products": "O=C1CCN2C[C@H](OCc3cccc(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(F)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(F)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(F)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)c(F)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)c(F)cc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Cl)c(F)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OCC(C(C)C)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(C(C)C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(C(C)C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(C(C)C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(C(C)C)O3)cc1", "products": "CC(C)C12COC(O1)C1C(=O)C12"}, {"reactants": "CC(C)C12COC(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OCC(C(C)C)(O3)C21"}, {"reactants": "COC1([O-])C2C3OCC(C(C)C)(O3)C21.CO", "products": "COC(=O)C1CC2(C(C)C)COC1O2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(C)CC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cccc(C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
